US04719110
Following the procedure of Example 3, 24 gms. of phosphoric acid, 53 mls. of water and 123 gms. of borax were combined to form a dispersion. The molar ratio of borax to acid in this dispersion was 5:3.8. The dispersion then was heated at a temperature between 80° C. and 90° C. and for a period sufficient to effect complete dissolution of borax. The resulting hot, clear solution contained 32 weight percent of sodium borate calculated on the basis of sodium tetraborate equivalent. Upon cooling to room temperature, crystals of sodium pentaborate formed and settled out of the solution.

reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | sodium tetraborate decahydrate | O.O.O.O.O.O.O.O.O.O.B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+]
reactant | sodium borate | B([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | sodium tetraborate | B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+]
solvent | water | O | H2O
product | sodium pentaborate | B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+] | InChI=1S/5BO3.15Na/c5*2-1(3)4;;;;;;;;;;;;;;;/q5*-3;15*+1
